US04352752
According to the same procedure as in Example 1, 1-(1-methoxycarbonylethyl)-3-hydroxy-4-phenylazetidin-2-one (513 mg.), which had been obtained in Referential Example 6, was subjected to hydrogenolysis at 50° C. in ethanol under a hydrogen pressure of one atmosphere in the presence of a 10% Pd-C (220 mg.). The reaction was completed in 12 hours. The same after-treatment as in Example 1 was followed to give methyl ester of α-hydroxy-β-phenylpropionylalanine (475 mg., yield: 91.9%), which was an oil. The NMR and IR spectra were completely identical with those of the authentic sample obtained in Example 9.

reactant | 1-(1-methoxycarbonylethyl)-3-hydroxy-4-phenylazetidin-2-one | 513 mg | COC(=O)C(C)N1C(C(C1C1=CC=CC=C1)O)=O | C13H15NO4
reactant | ethanol | C(C)O | C2H6O
catalyst | Pd-C | 220 mg | [Pd] | Pd
product | α-hydroxy-β-phenylpropionylalanine | 475 mg, yield: 91.9% | O[C@](NC(CCC1=CC=CC=C1)=O)(C)C(=O)O | C12H15NO4
